US04178449
3-Dimethylamino-2'-(trifluoromethyl)acrylophenone
A mixture of 35 g. of o-trifluoromethylacetophenone in 35 ml. of dimethylformamide dimethylacetal is refluxed for 8 hours under anhydrous conditions and then evaporated to a yellow oil. Bulb to bulb distillation gives the desired product as a thick yellow oil.

reactant | o-trifluoromethylacetophenone | FC(C1=C(C=CC=C1)C(C)=O)(F)F | C9H7F3O
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3-Dimethylamino-2'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=C(C=CC=C1)C(F)(F)F)C | C12H12F3NO
